US09340538B2
Step C: Diethyl 2-((4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)methyl)malonate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.77 g, 1.53 mmol) was reacted with diethyl 2-(morpholin-3-ylmethyl)malonate (0.4 g, 1.53 mmol) according to the procedure as described in Example 24 to give the title compound as a pale yellow solid (0.32 g, 47%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.53 mmol, 0.77 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | diethyl 2-(morpholin-3-ylmethyl)malonate | 1.53 mmol, 0.4 g | N1C(COCC1)CC(C(=O)OCC)C(=O)OCC | C12H21NO5
product | Diethyl 2-((4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)methyl)malonate | 0.32 g, 47% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)CC(C(=O)OCC)C(=O)OCC)C(=O)OCC | C29H34BrFN4O7S
